US08614237B2
6,7-dibromo-3-(4-fluorobenzoyl)benzofuran-4,5-dione (SKI 417506)
To a solution of (6,7-dibromo-5-hydroxybenzofuran-3-yl)(4-fluorophenyl)methanone (62 mg, 0.150 mmol) in AcOH (1 mL) was added nitric acid—69% (46.2 μl, 0.749 mmol) at room temperature. The mixture was heated to 60° C. for 3 hours, cooled to room temperature, poured onto iced water and the suspension filtered. A solid was isolated which was dried under vacuum to afford the product (14 mg, 17%).

reactant | (6,7-dibromo-5-hydroxybenzofuran-3-yl)(4-fluorophenyl)methanone | 0.150 mmol, 62 mg | BrC1=C(C2=C(C(=CO2)C(=O)C2=CC=C(C=C2)F)C=C1O)Br | C15H7Br2FO3
reactant | nitric acid | 0.749 mmol, 46.2 μl | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 6,7-dibromo-3-(4-fluorobenzoyl)benzofuran-4,5-dione | 14 mg, 17% | BrC1=C(C2=C(C(=CO2)C(C2=CC=C(C=C2)F)=O)C(C1=O)=O)Br | C15H5Br2FO4
